US06384041B1
To a 5° C. solution containing 27.8 g (246 mmol) of ethyl cyanoacetate and 38.2 g (251 mmol) of 1,8-diazabicyclo[5.4.0]undec-7ene in 420 mL of benzene was added over 30 minutes a solution of 1-bromo-2-butanone in 70 mL of benzene. The ice bath was removed and the reaction stirred for 1 hour at ambient temperature. At this time, the solids were removed by filtration and washed with 100 mL of methyl tert-butyl ether. The filtrate and the wash were combined and concentrated. The crude product was purified by short path distillation (0.2 torr, 140° C.) to provide 40.0 g (88.9%) of 2-cyano-4-oxohexanoic acid ethyl ester as a colorless oil. nmr (500 MHz, CDCl3) δ1.09 (t, J=7.3 Hz, 3H), 1.31 (t, J=7.1 Hz, 3H), 2.50 (q, J=7.3 Hz, 2H), 2.96 (dd, J=5.5, 18.0 Hz, 1H), 3.16 (dd, J=7.2, 18.0 Hz, 1H), 3.96 (dd, J=5.5, 7.2 Hz, 1H), 4.25 (q, J=7.1 Hz, 2H).

reactant | ethyl cyanoacetate | 246 mmol, 27.8 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | 1,8-diazabicyclo[5.4.0]undec-7ene | 251 mmol, 38.2 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 1-bromo-2-butanone | BrCC(CC)=O | C4H7BrO
solvent | benzene | 420 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 70 mL | C1=CC=CC=C1 | C6H6
product | 2-cyano-4-oxohexanoic acid ethyl ester | 40.0 g, 88.9% | C(C)OC(C(CC(CC)=O)C#N)=O | C9H13NO3
